US07622471B2
1-Benzylhexahydro-1H-1,4-diazepin-5-one
Concentrated sulfuric acid (25 mL) was added to 1-benzyl-4-piperidone (10.14 g) in acetic acid (50 mL) at room temperature, and sodium azide (3.880 g) was added thereto at 0° C. over a period of 2 hours, followed by stirring at 5° C. for 25 hours. The reaction mixture was alkalinized through addition of aqueous sodium hydroxide, followed by partitioning by use of chloroform. The aqueous layer was extracted with chloroform. The organic layers were combined, and washed with saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, and then the residue was purified through silica gel column chromatography (chloroform-methanol), to thereby give the title compound as a solid (5.081 g, 47%).

reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzyl-4-piperidone | 10.14 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium azide | 3.880 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-Benzylhexahydro-1H-1,4-diazepin-5-one | 5.081 g, 47% | C(C1=CC=CC=C1)N1CCNC(CC1)=O | C12H16N2O
